US07816522B2
To a solution of 535 mg of {2-(4-cyanomethoxy-3-methoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester in 8 ml of DMF there were added 123 mg of 2-hydrazinopyrimidine and 312 μl of triethylamine, and the mixture was stirred at 85° C. for 16 hours under a nitrogen atmosphere. The reaction mixture was concentrated, and the residue was dissolved in 6 ml of a methanol:THF=1:1 mixed solvent. Next, 229 μl of acetic acid and 357 mg of sodium cyanotrihydroborate were added to the solution and the mixture was stirred at room temperature for 3 hours and 30 minutes. After adding ethyl acetate to the reaction mixture, it was filtered through a small amount of NAM silica gel, and the silica gel was washed with ethyl acetate-methanol. The filtrate was concentrated under reduced pressure, and the residue was crudely purified by NAM silica gel column chromatography (methanol-ethyl acetate), to give (2-methoxy-4-{[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]-(5-oxo-1-pyrimidin-2-yl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)methyl}phenoxy)acetonitrile.

reactant | {2-(4-cyanomethoxy-3-methoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 535 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=CC(=C(C=C1)OCC#N)OC)SC)=O | C23H21N5O5S
reactant | 2-hydrazinopyrimidine | 123 mg | N(N)C1=NC=CC=N1 | C4H6N4
reactant | triethylamine | 312 μl | C(C)N(CC)CC | C6H15N
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | (2-methoxy-4-{[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]-(5-oxo-1-pyrimidin-2-yl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)methyl}phenoxy)acetonitrile | COC1=C(OCC#N)C=CC(=C1)C(C1=NN(C(N1)=O)C1=NC=CC=N1)NC1=CC=C(C=C1)C1=NOC(=N1)C | C25H21N9O4
